US07456186B2
Preparation of 1-(3-Bromo-4-fluorophenyl)-1-cyanomethanol
A solution of sodium bisulfite (28.3 g, 271 mmol) in water at 50° C. is treated with 3-bromo-4-fluorobenzaldehyde (45.8 g, 225 mmol), stirred at 50° C. for 2 h, cooled with an ice bath, diluted with ether, treated dropwise with an aqueous solution of sodium cyanide (12.2 g, 248 mmol) over a period of 30 min and stirred at room temperature overnight. The reaction mixture is separated, and the aqueous phase is extracted with ether. The extracts are combined with the organic phase, washed with brine, dried over magnesium sulfate and concentrated to dryness to afford the title compound as a clear oil, 47.6 g (92% yield), identified by NMR analysis. 1H NMR (300 MHz, CDCl3) δ 7.75 (m, 1H), 7.47 (m, 1H), 7.23 (m, 1H), 5.54 (m, 1H), 3.19 (m, 1H).

reactant | sodium bisulfite | 271 mmol, 28.3 g | S([O-])(O)=O.[Na+]
reactant | 3-bromo-4-fluorobenzaldehyde | 225 mmol, 45.8 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | sodium cyanide | 248 mmol, 12.2 g | [C-]#N.[Na+]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 1-(3-Bromo-4-fluorophenyl)-1-cyanomethanol | 92% yield | BrC=1C=C(C=CC1F)C(O)C#N | C8H5BrFNO
